US07163947B2
A solution of 4-(2,2-dimethylhydrazino)quinolin-3-amine (4.64 g, 23.0 mmol) in 75 mL of CH2Cl2 was cooled to 0° C. under an atmosphere of nitrogen. The reaction mixture was treated with triethylamine (6.72 mL, 48.2 mmol) followed by dropwise addition of ethoxyacetyl chloride (2.95 g, 24.1 mmol). After 1.5 h, the reaction mixture was concentrated under reduced pressure. The resulting oil was dissolved in 75 mL of ethanol, treated with triethylamine (9.60 mL, 68.9 mmol) and heated to reflux. After 5 d, the reaction mixture was concentrated under reduced pressure. The resulting oil was dissolved in CH2Cl2, washed with 2% Na2CO3 solution, water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield a brown oil. Chromatography (SiO2, 5–10% MeOH/CHCl3) gave N,N-dimethyl-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-amine (0.89 g) as a brown oil.

reactant | 4-(2,2-dimethylhydrazino)quinolin-3-amine | 23.0 mmol, 4.64 g | CN(NC1=C(C=NC2=CC=CC=C12)N)C | C11H14N4
reactant | triethylamine | 48.2 mmol, 6.72 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 24.1 mmol, 2.95 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | triethylamine | 68.9 mmol, 9.60 mL | C(C)N(CC)CC | C6H15N
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-amine | 0.89 g | CN(N1C(=NC=2C=NC=3C=CC=CC3C21)COCC)C | C15H18N4O
